US04550170
2 g (0.01 mol) of 2,3,5,6-tetrahydro-6-phenylimidazo-[2,1-b]-thiazole are dissolved in 20 ml of acetone and added with 1.53 g (0.01 mol) of methyl ester of monobromacetic acid. After 12 hours the residue is filtered-off and washed with acetone to give 2.86 g (81%) of 2,3,5,6-tetrahydro-6-phenyl-7-methoxycarbonylmethylimidazo-[2,1-b]-thiazolium bromide melting at 81°-82° C. (from dioxane).

reactant | 2,3,5,6-tetrahydro-6-phenylimidazo-[2,1-b]-thiazole | 0.01 mol, 2 g | C1(=CC=CC=C1)C1N=C2SCCN2C1 | C11H12N2S
reactant | monobromacetic acid | BrCC(=O)O | C2H3BrO2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,3,5,6-tetrahydro-6-phenyl-7-methoxycarbonylmethylimidazo-[2,1-b]-thiazolium bromide | 2.86 g, 81% | [Br-].C1(=CC=CC=C1)C1N(C=2SCC[N+]2C1)CC(=O)OC | InChI=1S/C14H17N2O2S.BrH/c1-18-13(17)10-16-12(11-5-3-2-4-6-11)9-15-7-8-19-14(15)16;/h2-6,12H,7-10H2,1H3;1H/q+1;/p-1
